US06548506B2
Choline 7-fluoro-8-[4-(4-fluoroanilino)piperidino]-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylate was prepared under the conditions of Example 1, but from 1.6 g of 7-fluoro-8-[4-(4-fluoroanilino)piperidino]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid in 16 cm3 of methanol and 1.3 cm3 of a 45% solution of choline hydroxide in methanol. After recrystallizing twice from 25 cm3 of 2-propanol on each occasion, 1.1 g of choline 7-fluoro-8-[4-(4-fluoroanilino)piperidino]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate were obtained in the form of a yellow solid melting at about 200-205° C.

reactant | 7-fluoro-8-[4-(4-fluoroanilino)piperidino]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.6 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCC(CC1)NC1=CC=C(C=C1)F | C25H22F2N4O3
reactant | choline hydroxide | [OH-].OCC[N+](C)(C)C
solvent | methanol | 16 cm3 | CO | CH4O
product | choline 7-fluoro-8-[4-(4-fluoroanilino)piperidino]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 1.1 g | OCC[N+](C)(C)C.FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)[O-])C)C=C1N1CCC(CC1)NC1=CC=C(C=C1)F | InChI=1S/C25H22F2N4O3.C5H14NO/c1-30-13-19(25(33)34)23(32)18-10-14-11-20(27)22(12-21(14)29-24(18)30)31-8-6-17(7-9-31)28-16-4-2-15(26)3-5-16;1-6(2,3)4-5-7/h2-5,10-13,17,28H,6-9H2,1H3,(H,33,34);7H,4-5H2,1-3H3/q;+1/p-1
